US04959363
A solution of 4.45 g 5-bromo-3-methylthiazole in 50 ml dry ether was cooled to -° C. and treated dropwise over 10 min. with butyllithium (10.5 ml, 26.25 mmol). The mixture was stirred at -° C. for 15 min., and a solution of 5.20 g trimethyltin chloride in 20 ml ether was added dropwise over 10 min. The reaction mixture was allowed to warm to room temperature, stirred overnight, and then washed with water. The ether layer was dried over sodium sulfate, filtered and concentrated in vacuo to give 6.60 g 3-methyl-5-trimethylstannylthiazole as a light-brown liquid used directly in the next reaction.

reactant | 5-bromo-3-methylthiazole | 4.45 g | BrC1=CN(CS1)C | C4H6BrNS
reactant | butyllithium | 26.25 mmol, 10.5 ml | C(CCC)[Li]
reactant | trimethyltin chloride | 5.20 g | C[Sn](C)(C)Cl
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-methyl-5-trimethylstannylthiazole | 6.60 g | CN1CSC(=C1)[Sn](C)(C)C | InChI=1S/C4H6NS.3CH3.Sn/c1-5-2-3-6-4-5;;;;/h2H,4H2,1H3;3*1H3;
